US07560558B2
Compound 287: 6,7-Dimethoxy-4-(2-pyridin-2-yl-quinolin-3-yloxy)-quinoline
N,N-Dimethylformamide (1 ml) was added to 4-(2-bromo-quinolin-3-yloxy)-6,7-dimethoxy-quinoline (35 mg), tetrakistriphenylphosphine palladium (9.8 mg), tri-n-butyl-(2-pyridyl)-tin (63 mg), and copper(II) oxide (14 mg) under an argon atmosphere, and the mixture was stirred at 100° C. overnight. The reaction solution was cooled to room temperature, water was then added thereto, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using hexane-acetone. The purification product was then dissolved in methanol, and the solution was added dropwise to water. The precipitate was collected by filtration to give the title compound (5.1 mg, yield 15%).

reactant | N,N-Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-bromo-quinolin-3-yloxy)-6,7-dimethoxy-quinoline | 35 mg | BrC1=NC2=CC=CC=C2C=C1OC1=CC=NC2=CC(=C(C=C12)OC)OC | C20H15BrN2O3
reactant | tri-n-butyl-(2-pyridyl)-tin | 63 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
catalyst | copper(II) oxide | 14 mg | [Cu]=O
solvent | water | O | H2O
product | 6,7-Dimethoxy-4-(2-pyridin-2-yl-quinolin-3-yloxy)-quinoline | 5.1 mg, yield 15% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C(=NC2=CC=CC=C2C1)C1=NC=CC=C1 | C25H19N3O3
